US06727264B1
2-(ISOPENTYLOXY)-1-NAPHTHALDEHYDE:
2-Hydroxy-1-naphthaldehyde (1.72 g, 10.0 mmol) and THF (50 ml) were combined in a flask. NaH (312 mg, 13 mmol) was added, followed by 1-bromo-3-methylbutane (1.20 mL, 10.0 mmol). The solution was stirred at room temperature overnight, the solvent was removed in vacuo, and the residue was purified by chromatography (5-10% ethyl acetate/hexane): 1H NMR (400 MHz, CDCl3) δ 10.9 (s, 1H), 9.28 (dd, 1H, J=0.7 Hz, 8.6 Hz), 8.02 (d, 1H, J=9.1 Hz), 7.75 (d, 1H, J=8.1 Hz), 7.63-7.59 (m, 1H), 7.43-7.39 (m, 1H), 7.27 (d, 1H, J=9.2 Hz), 4.25 (t, 2H, J=6.5 Hz), 1.98-1.84 (m, 1H), 1.80-1.75 (m, 2H), 0.99 (d, 6H, J=6.6 Hz); ESMS m/e: 242.8 (M+H)+.

reactant | 2-Hydroxy-1-naphthaldehyde | 10.0 mmol, 1.72 g | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | NaH | 13 mmol, 312 mg | [H-].[Na+]
reactant | 1-bromo-3-methylbutane | 10.0 mmol, 1.20 mL | BrCCC(C)C | C5H11Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(ISOPENTYLOXY)-1-NAPHTHALDEHYDE | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
